US04877790
7.3 g of 2,4-dichloroquinazoline (J. Chem. Soc., 1947, 775) was suspended in 40 ml of N,N-dimethylformamide, and with ice cooling, 1.9 g of sodium hydride (oily, 60 %) was added. A solution of 3.7 g of l-pentanol in 5 ml of N,N-dimethylformamide was added dropwise over 5 minutes, and then further stirred at 50° C. for 1 hour. After cooling, the reaction mixture was poured into ice water, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was subjected to silica gel column chromatography [eluted with hexane/ethyl acetate (8:1, v/v)] to give 8 g of 2-chloro-4-pentyloxyquinazoline. A portion of this produce was recrystallized from hexane to give a product having the following physical property values.

reactant | 2,4-dichloroquinazoline | 7.3 g | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | sodium hydride | 1.9 g | [H-].[Na+]
reactant | l-pentanol | 3.7 g | C(CCCC)O | C5H12O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-chloro-4-pentyloxyquinazoline | 8 g | ClC1=NC2=CC=CC=C2C(=N1)OCCCCC | C13H15ClN2O
